US07285563B2
3-(2-Aminoethyl)isoquinoline
To a solution of 3-(2-azidoethyl)isoquinoline (Description 112; 5.6 g, 28.3 mmol) in anhydrous tetrahydrofuran (50 ml) was added triphenylphosphine (14.85 g, 56.6 mmol) and water (0.509 ml, 28.3 mmol), and the resulting mixture stirred at room temperature overnight. The mixture was loaded directly onto a Bond-elut SCX cartridge and eluted with methanol until TLC indicated complete elution of triphenylphosphine. The product was then eluted with 2.0M ammonia in methanol. The basic fractions were collected and evaporated to give the title compound (2.7 g, 55%).

reactant | 3-(2-azidoethyl)isoquinoline | 28.3 mmol, 5.6 g | N(=[N+]=[N-])CCC=1N=CC2=CC=CC=C2C1 | C11H10N4
reactant | triphenylphosphine | 56.6 mmol, 14.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 28.3 mmol, 0.509 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(2-Aminoethyl)isoquinoline | 2.7 g, 55% | NCCC=1N=CC2=CC=CC=C2C1 | C11H12N2
